US07282496B2
Methyl 2-[(2-acetylaminobenzyl)-(4-methoxybenzenesulfonyl)-amino]acrylate
A mixture of methyl 2-[(2-aminobenzyl)-(4-methoxybenzenesulfonyl)amino]-3-hydroxypropionate (8.0 g, 20.28 mmol) in methylene chloride (60 ml) was cooled to 0° C. and triethylamine (12.69 ml, 91.1 mmol) in methylene chloride (25 ml)was added, followed by the addition of acetyl chloride (4.34 ml, 60.84 mmol). The mixture was stirred at room temperature overnight and diluted with methylene chloride. The mixture was washed with water, 2N citric acid, saturated sodium chloride and then dried with anhydrous sodium sulfate. The solvent was removed in vacuo to give 8.6 g of a yellow oil.

reactant | methyl 2-[(2-aminobenzyl)-(4-methoxybenzenesulfonyl)amino]-3-hydroxypropionate | 20.28 mmol, 8.0 g | NC1=C(CN(C(C(=O)OC)CO)S(=O)(=O)C2=CC=C(C=C2)OC)C=CC=C1 | C18H22N2O6S
reactant | triethylamine | 91.1 mmol, 12.69 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 60.84 mmol, 4.34 ml | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | Methyl 2-[(2-acetylaminobenzyl)-(4-methoxybenzenesulfonyl)-amino]acrylate | 8.6 g | C(C)(=O)NC1=C(CN(C(C(=O)OC)=C)S(=O)(=O)C2=CC=C(C=C2)OC)C=CC=C1 | C20H22N2O6S
